US04772614
To a stirred solution of N-methylmethanesulphonamide (13.6 g) in dry tetrahydrofuran (160 ml) at -70° to -60° was added a solution of n-butyl lithium in hexane (2.5M; 100 ml) under argon. The mixture was stirred at -78° for 1 hour and a solution of methyl 2-amino-3,4,5-trimethoxybenzoate (10 g) in dry tetrahydrofuran (50 ml) was added at -70° to -60°. The mixture was stirred for 2 hours, during which time the temperature rose to 10°. The mixture was poured on to ice (500 g), acidified to pH 1 with 5N HCl, and then neutralised to pH 7 with saturated aqueous sodium bicarbonate. The solid product was extracted into dichloromethane (3×500 ml). The extract was dried and evaporated to give a residue. This residue was triturated with ether to give a solid which was collected, dried and crystallised from ethyl acetate to give the novel compound 1-(2-amino-3,4,5-trimethoxyphenyl)-2-(N-methylsulphamoyl)ethanone, m.p. 125°-127°.

reactant | N-methylmethanesulphonamide | 13.6 g | CNS(=O)(=O)C | C2H7NO2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl 2-amino-3,4,5-trimethoxybenzoate | 10 g | NC1=C(C(=O)OC)C=C(C(=C1OC)OC)OC | C11H15NO5
reactant | HCl | 5N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 100 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-amino-3,4,5-trimethoxyphenyl)-2-(N-methylsulphamoyl)ethanone | NC1=C(C=C(C(=C1OC)OC)OC)C(CS(NC)(=O)=O)=O | C12H18N2O6S
